US09328112B2
4-fluoro-N-methyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline
A mixture of 2-bromo-4-fluoro-N-methylaniline (2 g, 9.8 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (2.99 g, 11.76 mmol), 1,1′-bis(diphenylphosphino)ferrocenedichloro palladium(II) dichloromethane complex (359 mg, 0.490 mmol) and potassium acetate (2.89 g, 29.4 mmol) in 1,2-dimethoxyethane (60 mL) was purged with nitrogen and heated at 80° C. overnight. After cooling, heptane (100 mL) was added and the mixture was filtered through diatomaceous earth and washed with 3:1 heptane/ethyl acetate. The filtrate was concentrated and the residue was purified by flash chromatography on silica gel (Teledyne CombiFlash Rf, 5-30% ethyl acetate in heptane) to provide the title compound, which was contaminated by corresponding boronic acid. MS (DCI/NH3) m/z 252 (M+H)+.

reactant | 2-bromo-4-fluoro-N-methylaniline | 9.8 mmol, 2 g | BrC1=C(NC)C=CC(=C1)F | C7H7BrFN
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 11.76 mmol, 2.99 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 29.4 mmol, 2.89 g | C(C)(=O)[O-].[K+]
solvent | 1,2-dimethoxyethane | 60 mL | COCCOC | C4H10O2
product | 4-fluoro-N-methyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | FC1=CC(=C(NC)C=C1)B1OC(C(O1)(C)C)(C)C | C13H19BFNO2
